US07163947B2
A solution of tert-butyl carbazate (33.1 g, 251 mmol) in 150 mL of dichloromethane was treated with triethylamine (66.5 mL, 502 mmol). The solution was placed under an atmosphere of nitrogen and cooled in a cold-water bath. The solution was treated with a solution of 7-benzyloxy-4-chloro-3-nitroquinoline (71.7 g, 228 mmol) in 350 mL of dichloromethane over 1 h. The reaction was stirred and allowed to warm to ambient temperature. After 15 h, the reaction was diluted with 200 mL of water and 250 mL of CHCl3 and the phases were separated. The organic portion was washed with water (200 mL), brine (200 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to yield an orange solid. The solid was recrystallized from dichloromethane to yield 53.5 g of tert-butyl N′-(7-benzyloxy-3-nitroquinolin-4-yl)hydrazinecarboxylate as yellow crystals.

reactant | tert-butyl carbazate | 251 mmol, 33.1 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | triethylamine | 502 mmol, 66.5 mL | C(C)N(CC)CC | C6H15N
reactant | 7-benzyloxy-4-chloro-3-nitroquinoline | 228 mmol, 71.7 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])Cl | C16H11ClN2O3
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 350 mL | ClCCl | CH2Cl2
solvent | water | 200 mL | O | H2O
solvent | CHCl3 | 250 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl N′-(7-benzyloxy-3-nitroquinolin-4-yl)hydrazinecarboxylate | 53.5 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NNC(=O)OC(C)(C)C | C21H22N4O5
